US09085581B2
Preparation of (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid 2-amino-2-hydroxymethyl-propane-1,3-diol (TRIS) salt
(R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (15 mg, 0.0311 mmol) was dissolved in EtOAc (0.5 mL) and warmed to 60° C. Aqueous 2-amino-2-hydroxymethyl-propane-1,3-diol (TRIS, 8.0 uL, 4.0 M) was added. The reaction mixture was allowed to cool to room temperature over 24 h and the solids were collected by filtration. The PXRD pattern of the title compound is shown in FIG. 13; and the DSC and TGA are shown in FIG. 14.

reactant | (R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 0.0311 mmol, 15 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
reactant | 2-amino-2-hydroxymethyl-propane-1,3-diol | 4.0 M, 8.0 uL | NC(CO)(CO)CO | C4H11NO3
solvent | EtOAc | 0.5 mL | CCOC(=O)C | C4H8O2
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid 2-amino-2-hydroxymethyl-propane-1,3-diol | NC(CO)(CO)CO.ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | InChI=1S/C24H23ClF3NO4.C4H11NO3/c1-13(2)33-20-6-3-14(9-18(20)24(26,27)28)12-32-16-4-5-19-17(11-16)22(25)23-15(10-21(30)31)7-8-29(19)23;5-4(1-6,2-7)3-8/h3-6,9,11,13,15H,7-8,10,12H2,1-2H3,(H,30,31);6-8H,1-3,5H2/t15-;/m1./s1
